US08053574B2
3-Amino-N-(5-methyl-isoxazol-3-yl)-propionamide
A solution of DMAP (9.77 g, 0.08 mol), TEA (55.23 ml, 0.396 mol) and DCI (49.01 ml, 0.317 mol) in DCM (250 ml) is treated with 5-methyl-isoxazole-3-ylamine (28.8 g, 0.290 mol) and Boc-Beta-Ala-OH (50 g, 0.264 mol). The reaction mixture is stirred at room temperature for 18 hours and then diluted with DCM (1750 ml). The mixture is washed with 10% citric acid (2×500 ml), saturated sodium hydrogen carbonate solution (2×500 ml) and brine (600 ml). The organic portion is dried (MgSO4), concentrated in vacuo and the crude residue is stirred with iso-hexanes (750 ml) for 1 hour. The resulting solid is dissolved in dioxane (400 ml) and treated with 4M HCl in dioxane (350 ml). After 1 hour the precipitate is filtered and washed with dioxane (100 ml) to afford the title compound as the hydrochloride salt [MH+169.84].

reactant | 5-methyl-isoxazole-3-ylamine | 0.290 mol, 28.8 g | CC1=CC(=NO1)N | C4H6N2O
reactant | Boc-Beta-Ala-OH | 0.264 mol, 50 g | N(CCC(=O)O)C(=O)OC(C)(C)C | C8H15NO4
catalyst | DMAP | 0.08 mol, 9.77 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 250 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1750 ml | C(Cl)Cl | CH2Cl2
product | 3-Amino-N-(5-methyl-isoxazol-3-yl)-propionamide | NCCC(=O)NC1=NOC(=C1)C | C7H11N3O2
